US05952382
(a) Preparation of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid chloride
10 g (20.6 mmol) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid and 100 ml of dichloromethane were introduced into a round-bottomed flask and 4.3 ml (21.6 mmol) of dicyclohexylamine were added dropwise. The reaction mixture was stirred at room temperature for one hour and 2.2 ml (21.6 mmol) of thionyl chloride were added dropwise. The reaction mixture was stirred for one hour and was evaporated to dryness, the residue was taken up in ethyl ether, the dicyclohexylamine salt was filtered off and the filtrate was evaporated. 10.4 g (100%) of the crude acid chloride were collected, which acid chloride was used as is in the synthesis to follow.

reactant | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid | 20.6 mmol, 10 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCOCCOC | C31H34O5
reactant | dicyclohexylamine | 21.6 mmol, 4.3 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 21.6 mmol, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid chloride | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)Cl)C=C2)OCOCCOC | C31H33ClO4
